US04608375
To a mixture of 1-(diphenylmethyl)hexahydro-1H-1,4-diazepine (2.0 g), N-(3-bromopropyl)phthalimide (2.01 g) and anhydrous potassium carbonate (3.1 g) was added acetone (10 ml) and then stirred for 6 hours at 50° C. The reaction mixture was filtered and the filtrate was concentrated in vacuo and then the resultant oily residue was subjected to a column chromatography on silica gel using a mixture of ethyl acetate and chloroform (2:3) for elution to give N-[3-{4-(diphenylmethyl)hexahydro-1H-1,4-diazepin-1-yl}propyl]phthalimide (2.2 g) as an oil.

reactant | 1-(diphenylmethyl)hexahydro-1H-1,4-diazepine | 2.0 g | C1(=CC=CC=C1)C(N1CCNCCC1)C1=CC=CC=C1 | C18H22N2
reactant | N-(3-bromopropyl)phthalimide | 2.01 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-[3-{4-(diphenylmethyl)hexahydro-1H-1,4-diazepin-1-yl}propyl]phthalimide | 2.2 g | C1(=CC=CC=C1)C(N1CCN(CCC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C29H31N3O2
